US06809199B2
The tert-butyl 3-[5-(2-chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl]-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate was prepared from 7-bromo-5-(2-chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one (COMPOUND CCC1) and tert-butyl 3-(trimethylstannyl)-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate (COMPOUND PPA-3) by a procedure analogous to that described in EXAMPLE CZC1, except that the eluting solvents in the purification step were 20:80 acetone-hexanes. Mass spectrum (ESI) 626 (M+1).

reactant | 7-bromo-5-(2-chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one | BrC1=NC(=C2C=CC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=C(C=C1)F)Cl | C20H9BrCl3FN2O
reactant | tert-butyl 3-(trimethylstannyl)-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate | C[Sn](C1=CC2CCC(C1)N2C(=O)OC(C)(C)C)(C)C
product | tert-butyl 3-[5-(2-chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl]-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate | ClC1=C(C=CC(=C1)F)C1=C2C=CC(N(C2=CC(=N1)C1=CC2CCC(C1)N2C(=O)OC(C)(C)C)C2=C(C=CC=C2Cl)Cl)=O | C32H27Cl3FN3O3
